US07259183B2
Preparation of 3-chloro-4-(1-methylcyclopropyl)-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 4-bromo-2-chloro-1-(1-methylcyclopropyl)-benzene (350 mg, 1.43 mmol), n-BuLi (980 μl, 1.6M solution in hexane, 1.57 mmol) and DMF (443 μl, 5.70 mmol). The isolated residue was purified by flash column chromatography (1:9 ether:pentane) to give 3-chloro-4-(1-methylcyclopropyl)-benzaldehyde (176 mg, 63%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 9.94 (s, 1H), 7.84 (d, J=1.5 Hz, 1H), 7.69 (dd, J=1.5, 8.0 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 1.38 (s, 3H), 0.90-0.80(m, 4H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 4-bromo-2-chloro-1-(1-methylcyclopropyl)-benzene | 1.43 mmol, 350 mg | BrC1=CC(=C(C=C1)C1(CC1)C)Cl | C10H10BrCl
reactant | n-BuLi | 1.57 mmol, 1.6M, 980 μl | [Li]CCCC
reactant | DMF | 5.70 mmol, 443 μl | CN(C)C=O | C3H7NO
product | 3-chloro-4-(1-methylcyclopropyl)-benzaldehyde | 176 mg, 63% | ClC=1C=C(C=O)C=CC1C1(CC1)C | C11H11ClO
